### PR TITLE
feat(MeasureTheory): Introduce `DiscreteMeasure α` giving rise to a `Measure α` as a sum of `dirac`s

### PR DESCRIPTION
**Pull request by pfaffelh**
Define `DiscreteMeasure α` as a structure with `weight : α → ℝ≥0∞`
Define `toMeasure (w : DiscreteMeasure α) : Measure α` as a sum of diracs
Show properties of the resulting objects

This PR intends to start a more userfriendly interaction with discrete probability (measure) theory, in contrast to probability mass functions (`PMF`). There are two main differences between `DiscreteMeasure` and `PMF`:
* Every `PMF` hast the additional property `HasSum 1`, making the resulting measure a probability measure. (For `DiscreteMeasure`, I intend to use the typeclass `IsProbabilityMeasure`in a later PR instead.) 
* The `toMeasure` function of `MassFunction` defines the measure as a sum of diracs, which immediately makes computations possible. 

Discussion thread on [zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PMF.20Refactor.3A.20FunLike.20vs.20Definition.20Change)

- depends on: #37060

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 1]
```diff
@@ -0,0 +1,192 @@
...
+
+lemma Set.PairwiseDisjoint.singleton_subtype (s : Set α) :
+    Pairwise (Disjoint on fun (x : s) => ({x.val} : Set α)) := by
+  intro a b hab
+  simp_rw [Set.disjoint_singleton_left, Set.mem_singleton_iff, Subtype.coe_ne_coe.mpr hab,
+    not_false_eq_true]
+
+lemma Set.PairwiseDisjoint.fiber_subtype {g : α → β} (s : Set β) :
+    Pairwise (Disjoint on fun (x : s) => (g⁻¹' {x.val} : Set α)) :=
+  fun _ _ hab ↦ pairwise_disjoint_fiber g (Subtype.coe_ne_coe.mpr hab)
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: It seems these shouldn't be in this file since they are not specific to Mass functions. Although its not always easy to find lemmas for these kinds of things. Perhaps try #find_home or #min_imports in?

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 2]
```diff
@@ -0,0 +1,192 @@
...
+theorem apply_eq_zero_iff (w : MassFunction α) (a : α) : w a = 0 ↔ a ∉ w.support := by
+  rw [mem_support_iff, Classical.not_not]
+
+theorem apply_pos_iff (w : MassFunction α) (a : α) : 0 < w a ↔ a ∈ w.support :=
+  pos_iff_ne_zero.trans (w.mem_support_iff a).symm
+
+/-- The `@Measure α ⊤` as defined through a `MassFunction α` (mass function) through a sum of
+diracs. -/
+noncomputable def toMeasure (w : MassFunction α) : @Measure α ⊤ :=
+  Measure.sum (fun a ↦ (w a) • @Measure.dirac α ⊤ a)
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: I think it would be nice to make the sigma algebra an optimal argument which defaults to `⊤`. That way one could still use this as a constructor even if they want to consider a different sigma algebra.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 3]
```diff
@@ -0,0 +1,192 @@
...
+    μ.toMeasure s = ∑' (i : α), s.indicator μ i := by
+  simp [toMeasure_apply]
+
+lemma toMeasure_apply₂ (μ : MassFunction α) (s : Set α) : μ.toMeasure s = ∑' (a : s), (μ a) := by
+  simp [toMeasure_apply, tsum_subtype]
+
+@[simp]
+lemma toMeasure_apply_singleton (μ : MassFunction α) (a : α) :
+    ∑' (i : α), ({a} : Set α).indicator μ i = μ a := by
+  rw [← tsum_subtype, tsum_singleton]
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: The lemma name doesn't match the statement

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 4]
```diff
@@ -0,0 +1,192 @@
...
+    rw [ENNReal.tsum_eq_add_tsum_ite i]
+    simp only [hi, ↓reduceIte]
+    nth_rw 1 [← add_zero (μ b)]
+    congr
+    apply (ENNReal.tsum_eq_zero.mpr ?_).symm
+    simp only [ite_eq_left_iff, ite_eq_right_iff]
+    exact fun j hj hb ↦ False.elim <| Disjoint.notMem_of_mem_left (hs (id (Ne.symm hj))) hi hb
+  · refine (ENNReal.tsum_eq_zero.mpr (fun j ↦ ?_)).symm
+    push_neg at h₀
+    simp [h₀ j]
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: Maybe you could generalize `Set.indicator_union_of_disjoint` (with appropriate assumptions) and use this to give a shorter proof? This proof is quite long and such a lemma could be useful elsewhere.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean (hunk 1 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: Now I found a home for these two lemmas at `Mathlib/Data/Set/Pairwise/Basic.lean`.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean (hunk 4 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: You are absolutely right. I now extracted two lemmas, which might be helpful later, and generalized the result to a topological space instead of `ENNReal`, since a `tsum` is involved (see at the top of the file). Finding a home for them is tricky, since `Set.indicator` never comes with a topological space instance.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean (hunk 3 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: You are right. I now rather delete the lemma, because the nex is what is actually needed.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 5]
```diff
@@ -0,0 +1,189 @@
...
+
+universe u
+
+variable {α β γ δ : Type*}
+
+open Classical in
+lemma Function.support_subsingleton_of_disjoint [Zero β] {s : δ → Set α} (f : α → β)
+    (hs : Pairwise (Disjoint on s)) (i : α) (j : δ) (hj : i ∈ s j) :
+    Function.support (fun d ↦ if i ∈ s d then f i else 0) ⊆ {j} := by
+  intro d
```
Comment (metakunt) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: Can't you use DecidableMem instance here instead of opening classical?

Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: You are right, I can. Changed.

File: Mathlib/MeasureTheory/Measure/MassFunction.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+  simp only [Set.indicator, Set.mem_iUnion]
+  by_cases h₀ : ∃ d, i ∈ s d <;> simp only [h₀, ↓reduceIte]
+  · obtain ⟨j, hj⟩ := h₀
+    rw [← tsum_subtype_eq_of_support_subset (s := {j})]
+    · simp only [tsum_fintype, Finset.univ_unique, Set.default_coe_singleton, Finset.sum_singleton,
+      left_eq_ite_iff]
+      exact fun h ↦ False.elim (h hj)
+    · apply (support_subsingleton_of_disjoint f hs i j hj)
+  · push_neg at h₀
+    simp_rw [if_neg (h₀ _), tsum_zero]
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Measure/MassFunction.lean]: I don't think these belong in this file since they are not at all specific to mass functions. In fact I need this for the conditional independence refactor. Perhaps you could make a seperate PR with just these two that could get reviewed and into mathlib quicker? 

Also I think you should follow the lead of `mulIndicator_union_of_notMem_inter` and `mulIndicator_union_of_disjoint` and have a version that is "applied" (which is generalised to say that the element being applied is not in the pairwise intersection of any of the sets) and an "unapplied" version that says the indicators are equal as functions.

Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: I made the changes and put these functions to the places where they hopefully belong. Will do a separate PR for them  tomorrow. The new versions also com with a multiplicative version (to-additive).

Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/MassFunction.lean]: The small PR for the indicators is now at #37060.

**Comment by pfaffelh** [comment]
WIP +

File: Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean [hunk 7]
```diff
@@ -0,0 +1,191 @@
...
+  rw [μ.toMeasure_apply' hs]
+  simp
+
+lemma toMeasure_apply₁ [MeasurableSpace α] [MeasurableSingletonClass α] (μ : DiscreteMeasure α)
+    {s : Set α} (hs : MeasurableSet s) : μ.toMeasure s = ∑' (i : α), s.indicator μ i := by
+  simp [μ.toMeasure_apply hs]
+
+lemma toMeasure_apply₂ [MeasurableSpace α] [MeasurableSingletonClass α] (μ : DiscreteMeasure α)
+    {s : Set α} (hs : MeasurableSet s) : μ.toMeasure s = ∑' (a : s), (μ a) := by
+  simp [μ.toMeasure_apply hs, _root_.tsum_subtype]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean]: Perhaps `apply_eq_tsum_mul`, `apply`, and `apply_eq_tsum_subtype` would be better names?

File: Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean [hunk 8]
```diff
@@ -0,0 +1,191 @@
...
+theorem toMeasure_apply_eq_zero_iff [MeasurableSpace α] [MeasurableSingletonClass α]
+    {μ : DiscreteMeasure α} {s : Set α} (hs : MeasurableSet s) :
+    μ.toMeasure s = 0 ↔ Disjoint μ.weight.support s := by
+  rw [toMeasure_apply₁ (hs := hs), ENNReal.tsum_eq_zero]
+  exact funext_iff.symm.trans Set.indicator_eq_zero'
+
+@[simp]
+theorem toMeasure_apply_inter_support [MeasurableSpace α] [MeasurableSingletonClass α]
+  {μ : DiscreteMeasure α} {s u : Set α} (hs : MeasurableSet s) (hu : MeasurableSet u)
+    (h : μ.weight.support ⊆ u) : μ.toMeasure (s ∩ u) = μ.toMeasure s := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean]:
```suggestion
    {μ : DiscreteMeasure α} {s u : Set α} (hs : MeasurableSet s) (hu : MeasurableSet u)
    (h : μ.weight.support ⊆ u) : μ.toMeasure (s ∩ u) = μ.toMeasure s := by
```

File: Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean (hunk 7 above)
Comment (pfaffelh) [reply Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean]: I now follow these suggestions.

File: Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean [hunk 9]
```diff
@@ -0,0 +1,194 @@
...
+    {μ : DiscreteMeasure α} {u : Set α} (hu : MeasurableSet u) (h : μ.weight.support ⊆ u) :
+    μ.toMeasure.restrict u = μ.toMeasure := by
+  apply Measure.ext
+  intro s hs
+  rw [Measure.restrict_apply hs, μ.toMeasure_apply_inter_support hs hu h]
+
+end DiscreteMeasure
+
+end MeasureTheory
+#lint
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/DiscreteMeasure.lean:195]:
```suggestion
```
